US04137313
10.0 gm (51 millimols) of ethyl 1,5-dimethyl-indole-2-carboxylate were reacted analogous to Example 18(b) with 28 ml of thionyl chloride, and the thus obtained yellow crystals (ethyl 3-chloro-sulfinyl-1,5-dimethyl-indole-2-carboxylate) was reacted with a solution of ammonia in ether at -70° C. to yield 8.8 gm (61% of theory) of ethyl 3-aminosulfinyl-1,5-dimethyl-indole-2-carboxylate; M.p.: 118° C.

reactant | ethyl 1,5-dimethyl-indole-2-carboxylate | 51 millimols, 10.0 gm | CN1C(=CC2=CC(=CC=C12)C)C(=O)OCC | C13H15NO2
reactant | thionyl chloride | 28 ml | S(=O)(Cl)Cl | Cl2OS
reactant | ethyl 3-chloro-sulfinyl-1,5-dimethyl-indole-2-carboxylate | ClC=1C(N(C2=CC=C(C(C12)=S=O)C)C)C(=O)OCC | C13H14ClNO3S
reactant | ammonia | N | H3N
solvent | ether | CCOCC | C4H10O
product | ethyl 3-aminosulfinyl-1,5-dimethyl-indole-2-carboxylate | 8.8 gm, 61% | NS(=O)C1=C(N(C2=CC=C(C=C12)C)C)C(=O)OCC | C13H16N2O3S
